US06599590B2
To 95.0 g (221 mmol) of dried 1,3-dioxolan-2-ylmethyl triphenylphosphonium bromide was added 800 ml of tetrahydrofuran (hereinafter abbreviated as “THF”), and the mixture was cooled to 0° C. 25.0 g (223 mmol) of potassium-t-butoxide was gradually added thereto at that temperature and the mixture was stirred for one hour. To the resulting mixture was added dropwise a solution of 25.0 g (176 mmol) of 3,5-difluorobenzaldehyde in 50 ml of THF and the mixture was stirred at 0° C. for one hour and then stirred at room temperature for 12 hours. 500 ml of water was added thereto and the reaction product was extracted with toluene. The extract was washed with brine, dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (eluting solvent: toluene) and the solvent was distilled off under reduced pressure. The residue thus obtained was dissolved in 600 ml of ethanol and the resultant solution was hydrogenated with 5% palladium/carbon as a catalyst and filtered to separate the catalyst. The solvent was distilled off under reduced pressure to afford 30.9 g (154 mmol) of 1-(1,3-dioxolan-2-ylethyl)-3,5-difluorobenzene. (Yield: 87.5%)

reactant | 1,3-dioxolan-2-ylmethyl triphenylphosphonium bromide | 221 mmol, 95.0 g | [Br-].O1C(OCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 223 mmol, 25.0 g | CC(C)([O-])C.[K+]
reactant | 3,5-difluorobenzaldehyde | 176 mmol, 25.0 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
reactant | water | 500 ml | O | H2O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 1-(1,3-dioxolan-2-ylethyl)-3,5-difluorobenzene | 154 mmol, 30.9 g, Yield: 87.5% | O1C(OCC1)CCC1=CC(=CC(=C1)F)F | C11H12F2O2
